US08278307B2
Potential Synthesis of 3-[(2-amino-1,3-thiazol-5-yl)ethynyl]-N-{3-cyclopropyl-4-[(4-methylpiperazin-1-yl)methyl]phenyl}-methylbenzamide
The title compound can be synthesized from tert-butyl (5-ethynyl-1,3-thiazol-2-yl)carbamate and N-(3-cyclopropyl-4-((4-methylpiperazin-1-yl)methyl)phenyl)-3-iodo-4-methylbenzamide in a manner similar to that described for Example 2 (nitro reduction performed in a manner similar to that described for Example 8; 0.25M in MeOH/10% AcOH). T-BOC deprotection can be performed after coupling as described in Example 5.

reactant | tert-butyl (5-ethynyl-1,3-thiazol-2-yl)carbamate | C(#C)C1=CN=C(S1)NC(OC(C)(C)C)=O | C10H12N2O2S
reactant | N-(3-cyclopropyl-4-((4-methylpiperazin-1-yl)methyl)phenyl)-3-iodo-4-methylbenzamide | C1(CC1)C=1C=C(C=CC1CN1CCN(CC1)C)NC(C1=CC(=C(C=C1)C)I)=O | C23H28IN3O
product | 3-[(2-amino-1,3-thiazol-5-yl)ethynyl]-N-{3-cyclopropyl-4-[(4-methylpiperazin-1-yl)methyl]phenyl}-methylbenzamide | NC=1SC(=CN1)C#CC=1C(=C(C(=O)NC2=CC(=C(C=C2)CN2CCN(CC2)C)C2CC2)C=CC1)C | C28H31N5OS
